US04918222
N-Acetylalanine Synthesis
A 183 ml rocking autoclave equipped with a glass-liner, was charged with acetaldehyde (3.0 g), acetamide (5.9 g), ethyl acetate (15 g) and dicobalt octacarbonyl (0.34 g). The reaction was sealed and flushed with the mixture of CO-H2 (1:1 molar ratio). The system was pressured with CO-H2 (1:1 to 1200 psi and then pressured with pure CO to final pressure of 2300 psi. The autoclave was heated to 120° C. and held at this temperature for two hours. The system was allowed to cool to room temperature. The excess gas was vented. The resulting product mixture was liquid only. The cobalt analysis of this homogeneous solution was 4500 ppm (calculated 4800 ppm). The H-mmr analysis of the product solution indicated the presence of N-acetylalanine.

reactant | acetaldehyde | 3.0 g | C(C)=O | C2H4O
reactant | acetamide | 5.9 g | C(C)(=O)N | C2H5NO
reactant | ethyl acetate | 15 g | C(C)(=O)OCC | C4H8O2
catalyst | dicobalt octacarbonyl | 0.34 g | [CH-]=O.[CH-]=O.[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Co].[Co+2]
product | N-Acetylalanine | C(C)(=O)N[C@@H](C)C(=O)O | C5H9NO3
